US05661166
To a solution of 5-hydroxy-4-methoxy-2,6,6-trimethyl-2-cyclohepten-1-one (AU154) obtained in Example 4 (1.98 g, 10 mM) in pyridine (10 ml), phthalic anhydride (1.78 g, 12 mM) and dimethyl aminopyridine (0.05 g) were added and warmed to 90° C. for three hours, left to cool, poured onto ice-water, alkalified with potassium carbonate and extracted with ethyl acetate. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate, washed with brine, dried over magnesium sulfate, filtered, and concentrated. The residue was crystallized from a mixed solvent of ethyl acetate and hexane to obtain 1.80 g (53%) of 5-(2-carboxybenzoyloxy)-4-methoxy-2,6,6-trimethyl-2-cyclohepten-1-one (AU218) as colorless plates. Melting point: 158.0° to 158.5° C.

reactant | 5-hydroxy-4-methoxy-2,6,6-trimethyl-2-cyclohepten-1-one | OC1C(C=C(C(CC1(C)C)=O)C)OC | C11H18O3
reactant | phthalic anhydride | 12 mM, 1.78 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | dimethyl aminopyridine | 0.05 g | CC1=C(C(=NC=C1)N)C | C7H10N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-(2-carboxybenzoyloxy)-4-methoxy-2,6,6-trimethyl-2-cyclohepten-1-one | 1.80 g, 53% | C(=O)(O)C1=C(C(=O)OC2C(C=C(C(CC2(C)C)=O)C)OC)C=CC=C1 | C19H22O6
